US07470700B2
5-Bromo-2-chloro-6-methyl-3H-pyrimidin-4-one
The title compound was prepared in 63% yield from 5-Bromo-6-methyl-1H-pyrimidine-2,4-dione utilizing a method analogous to the preparation of 2-chloro-5,6-dimethyl-3H-pyrimidin-4-one (see Lee, et al., WO 9605177). 1H NMR (400 MHz, DMSO-d6): δ 2.38 (s, 3H). MS (ES) [m+H] calc'd for C5H4N2OBrCl, 223, 225, 227; found 223, 225, 227.

reactant | 5-Bromo-6-methyl-1H-pyrimidine-2,4-dione | BrC=1C(NC(NC1C)=O)=O | C5H5BrN2O2
reactant | 2-chloro-5,6-dimethyl-3H-pyrimidin-4-one | ClC1=NC(=C(C(N1)=O)C)C | C6H7ClN2O
product | 5-Bromo-2-chloro-6-methyl-3H-pyrimidin-4-one | 63% yield | BrC=1C(NC(=NC1C)Cl)=O | C5H4BrClN2O
